US05162323
Preparation of 4-(2-butyl)amino-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole
0.9 g (24 mmol) of sodium borohydride is added to a suspension, cooled to 0° C., of 2.8 g (12 mmol) of nickel dichloride hexahydrate in a solution of 2 g (6 mmol) of 4-nitro-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole, Example 7, and 10 ml of methyl ethyl ketone in 50 ml of ethanol. This temperature is maintained for 30 minutes and allowed to rise to room temperature, stirring is continued for 2 hours, the mixture is evaporated under vacuum, the residue is taken up with ethyl acetate and 1.22 g of 4-(2-butyl))amino-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole are obtained in liquid form.

reactant | sodium borohydride | 24 mmol, 0.9 g | [BH4-].[Na+]
reactant | 4-nitro-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | 6 mmol, 2 g | [N+](=O)([O-])C=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=CC=N1 | C15H21N7O2
reactant | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | nickel dichloride hexahydrate | 12 mmol, 2.8 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-(2-butyl)amino-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | CC(CC)NC=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=CC=N1 | C19H31N7
